US08835420B2
(S)-2-Amino-4-methyl-6-((1-(1-methyl-6-(tetrahydro-2H-pyran-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
To a 10 mL vial were added (S)-1-(1-methyl-6-(tetrahydro-2H-pyran-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (271 mg, 1.05 mmol), 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (194 mg, 1.149 mmol) and Et3N (0.29 mL, 2.1 mmol) in DMF (5 mL). The resulting yellow solution was heated to 90° C. and stirred overnight. The product was purified by preparative HPLC eluting with 20-40% ACN in water (with 0.05% ammonium formate). The fractions containing the product were combined and lyophilized to give the title compound as a white solid (27 mg, 6.6%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.39-1.53 (m, 3 H), 1.58-1.86 (m, 3 H), 1.91-2.11 (m, 1 H), 2.18-2.29 (m, 3 H), 2.99-3.17 (m, 1 H), 3.37-3.61 (m, 2 H), 3.75-3.90 (m, 3 H), 3.90-4.10 (m, 2 H), 5.63-5.80 (m, 1 H), 6.44-6.57 (m, 1 H), 6.97-7.25 (m, 2 H), 7.32-7.45 (m, 1 H), 7.55-7.65 (m, 1 H), 7.83-7.97 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C21H25N2O, 392; found 392.

reactant | (S)-1-(1-methyl-6-(tetrahydro-2H-pyran-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 1.05 mmol, 271 mg | CN1C=CC2=NC(=C(C=C21)C2CCOCC2)[C@H](C)N | C15H21N3O
reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 1.149 mmol, 194 mg | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | Et3N | 2.1 mmol, 0.29 mL | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-2-Amino-4-methyl-6-((1-(1-methyl-6-(tetrahydro-2H-pyran-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 27 mg, 6.6% | NC1=NC(=C(C(=N1)C)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2CCOCC2 | C21H25N7O
